US06054457
A solution of 4-hydroxy-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-benzamide (320 mg) in N,N-dimethylformamide (8 ml) was treated with sodium hydride (29.1 mg, 60% w/w in mineral oil) at 0° C. The reaction mixture was stirred at 0° C. for 15 minutes and then at ambient temperature for 10 minutes. o-Nitrobenzyl bromide (143 mg) was added, and the reaction mixture was stirred for 2.5 hours. The reaction was quenched with water and the mixture was diluted with ethyl acetate. The organic phase was washed with saturated aqueous sodium hydrogen carbonate, and brine. The organic solution was dried over magnesium sulfate, concentrated, and purified by silica gel column chromatography (SiO2 15 g, 3% methanol in dichloromethane) to give 3-methoxy-4-(2-nitrobenzyloxy)-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (210 mg).

reactant | 4-hydroxy-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-benzamide | 320 mg | OC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C27H37N3O5
reactant | sodium hydride | 29.1 mg | [H-].[Na+]
reactant | o-Nitrobenzyl bromide | 143 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-methoxy-4-(2-nitrobenzyloxy)-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 210 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1OCC1=C(C=CC=C1)[N+](=O)[O-] | C34H42N4O7
